US04883815
9.20 g (0.035 mol) of 8-chloro-2,3,5,6-tetrahydrobenzo[f]quinoline-4(1H)-carboxamide are suspended in 100 ml of methylene chloride and 14.1 g (0.071 mol) of m-chloroperbenzoic acid (85 percent) in 150 ml of methylene chloride are added dropwise thereto at 10°-15°. After stirring at room temperature for 1.5 hours, the mixture is poured into saturated sodium hydrogen carbonate solution, extracted with methylene chloride, dried with magnesium sulfate and the solvent is distilled in a vacuum. The solid obtained is washed with hot ethyl acetate. Recrystallization from dioxane/ether yields 11-chloro-2,3,5,6,7,8-hexahydro-3,8-dioxo-4-benzazecine-4(1H)-carboxamide as white crystals with melting point 182°-184°.

reactant | 8-chloro-2,3,5,6-tetrahydrobenzo[f]quinoline-4(1H)-carboxamide | 0.035 mol, 9.20 g | ClC1=CC2=C(C=3CCCN(C3CC2)C(=O)N)C=C1 | C14H15ClN2O
reactant | m-chloroperbenzoic acid | 0.071 mol, 14.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 11-chloro-2,3,5,6,7,8-hexahydro-3,8-dioxo-4-benzazecine-4(1H)-carboxamide | ClC1=CC2=C(C(CCCN(C(CC2)=O)C(=O)N)=O)C=C1 | C14H15ClN2O3
